US08039472B2
To a suspension of NaH (170 mg of a 60% dispersion in mineral oil, 4.25 mmol) in anhydrous DMF (20 ml) is added 2,2,2-trifluoro-N-{4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidin-4-yl}-acetamide hydrochloride) (500 mg, 1.4 mmol) followed by 4-bromomethylpyridine hydrobromide (350 mg, 1.4 mmol). The reaction mixture is stirred at room temperature for 3 hours. The reaction mixture is quenched with sat. NH4Cl solution and is concentrated in vacuo. The residue is purified by column chromatography (basic alumina, MeOH/DCM) to obtain 2,2,2-Trifluoro-N-[1-pyridin-4-ylmethyl-4-(2,2,2-trifluoro-acetylamino)-piperidin-4-ylmethyl]-acetamide as off-white solid; [M+H]+ 413

reactant | NaH | [H-].[Na+]
reactant | 2,2,2-trifluoro-N-{4-[(2,2,2-trifluoro-acetylamino)-methyl]-piperidin-4-yl}-acetamide hydrochloride | Cl.FC(C(=O)NC1(CCNCC1)CNC(C(F)(F)F)=O)(F)F
reactant | 4-bromomethylpyridine hydrobromide | 1.4 mmol, 350 mg | Br.BrCC1=CC=NC=C1
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2,2,2-Trifluoro-N-[1-pyridin-4-ylmethyl-4-(2,2,2-trifluoro-acetylamino)-piperidin-4-ylmethyl]-acetamide | FC(C(=O)NCC1(CCN(CC1)CC1=CC=NC=C1)NC(C(F)(F)F)=O)(F)F | C16H18F6N4O2
